US04775675
2-(2,4-Dichlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid
3.5 g (20 mmoles) of 2,4-dichlorobenzaldehyde dissolved in 17 ml of methanol are added to a solution containing 3.0 g (20 mmoles) of D-penicillamine in 65 ml of water while stirring. After stirring for 16 hours, the precipitate is filtered, washed with 50% methanol and dried to give the title acid in a yield of 5.82 g (95%), m.p.: 150°-151° C., [α]D20 =+353° (c=0.45, dimethylsulphoxide).

reactant | 2,4-dichlorobenzaldehyde | 20 mmoles, 3.5 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | D-penicillamine | 20 mmoles, 3.0 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | methanol | 17 ml | CO | CH4O
solvent | water | 65 ml | O | H2O
product | 2-(2,4-Dichlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | ClC1=C(C=CC(=C1)Cl)C1SC([C@@H](N1)C(=O)O)(C)C | C12H13Cl2NO2S
